US04082717
6-methyl-2-ethyl-3-hydroxy-4H-pyran-4-one
In a three necked round bottom flask were combined 28 ml of methanol and 38 ml of water. The solution was cooled to -15° C. and 0.166 mole of 5-methyl2-(2-hydroxy-propyl)furan (J. Org. Chem., 26, 1973, 1960) and 0.416 mole of chlorine were added simultaneously. During the addition, the reaction was maintained between -16° and -8° C. When addition was completed, the solution was warmed to 80° C. and refluxed for about 3 hours. Upon cooling to room temperature, the pH was adjusted to 2.1 and extracted with chloroform (3 × 100 ml). The combined organic layers were washed with water, brine and dried over magnesium sulfate. The organic solution was filtered and evaporated to give a thick dark solid. The solid was recrystallized twice from methanol to give 8.06 grams (30% yield) of white solid. Sublimation yielded pure product, m.p. 157°-159° C.

reactant | methanol | 28 ml | CO | CH4O
reactant | 5-methyl2-(2-hydroxy-propyl)furan | 0.166 mole | CC1=CC=C(O1)CC(C)O | C8H12O2
reactant | chlorine | 0.416 mole | ClCl | Cl2
solvent | water | 38 ml | O | H2O
product | 6-methyl-2-ethyl-3-hydroxy-4H-pyran-4-one | 8.06 grams, 30% yield | CC1=CC(C(=C(O1)CC)O)=O | C8H10O3
